US07517910B2
ethyl 3-tert-butyl-1-{4-[(methoxymethoxy)methyl]benzyl}-1H-pyrazole-5-carboxylate
A mixed solution of ethyl 3-tert-butyl-1H-pyrazole-5-carboxylate (3.00 g, 15.3 mmol), [4-(chloromethyl)phenyl]methanol (2.50 g, 16.0 mmol), potassium carbonate (2.11 g, 15.3 mmol) and N,N-dimethylformamide (40 mL) was stirred at 70° C. for 3 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract washed with aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. To a mixture of the obtained oil, N-ethyldiisopropylamine (8.00 mL, 45.9 mmol) and tetrahydrofuran (50 mL) was added dropwise a solution of chloromethyl methyl ether (4.40 mL, 46.3 mmol) in tetrahydrofuran (10 mL) at 0° C. The reaction mixture was stirred overnight at room temperature, and concentrated, and the obtained residue was subjected to silica gel chromatography (ethyl acetate:hexane=1:3) to give the title compound (1.95 g, yield 35%) as a colorless oil. 1H NMR (CDCl3) δ: 1.31 (1H, t, J=7.1 Hz), 1.32 (9H, s), 3.39 (3H, s), 4.26 (2H, q, J=7.1 Hz), 4.54 (2H, s), 4.68 (2H, s), 5.70 (2H, s), 6.71 (1H, s), 7.15-7.33 (4H, m).

reactant | ethyl 3-tert-butyl-1H-pyrazole-5-carboxylate | 15.3 mmol, 3.00 g | C(C)(C)(C)C1=NNC(=C1)C(=O)OCC | C10H16N2O2
reactant | [4-(chloromethyl)phenyl]methanol | 16.0 mmol, 2.50 g | ClCC1=CC=C(C=C1)CO | C8H9ClO
reactant | potassium carbonate | 15.3 mmol, 2.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-ethyldiisopropylamine | 45.9 mmol, 8.00 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 46.3 mmol, 4.40 mL | COCCl | C2H5ClO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | ethyl 3-tert-butyl-1-{4-[(methoxymethoxy)methyl]benzyl}-1H-pyrazole-5-carboxylate | 1.95 g, yield 35% | C(C)(C)(C)C1=NN(C(=C1)C(=O)OCC)CC1=CC=C(C=C1)COCOC | C20H28N2O4
